US04224449
1,3-Dimethyl-5-(3-Trichloromethyl-1,2,4-thiadiazol-5-yl)biuret
A glass pressure vessel was charged with 27.5 grams (0.13 mole) 5-amino-3-trichloromethyl-1,2,4-thiadiazole, 17.9 grams (0.31 mole) methyl isocyanate, and 250 milliliters benzene. A magnetic stirring bar was added and the vessel sealed. The stirred reaction mixture was heated at 145° C. for 1.5 hours and then allowed to cool to room temperature where a urea by-product precipitates. The by-product was removed by filtration and the filtrate concentrated in vacuo to leave 27.2 grams (65% yield) of product. Recrystallization from methanol gave an analytically pure sample; m.p. 94° C.

reactant | 5-amino-3-trichloromethyl-1,2,4-thiadiazole | 0.13 mole, 27.5 grams | NC1=NC(=NS1)C(Cl)(Cl)Cl | C3H2Cl3N3S
reactant | methyl isocyanate | 0.31 mole, 17.9 grams | CN=C=O | C2H3NO
reactant | urea | NC(=O)N | CH4N2O
reactant | benzene | 250 milliliters | C1=CC=CC=C1 | C6H6
product | 1,3-Dimethyl-5-(3-Trichloromethyl-1,2,4-thiadiazol-5-yl)biuret | 27.2 grams, 65% yield | CNC(=O)N(C(=O)NC1=NC(=NS1)C(Cl)(Cl)Cl)C | C7H8Cl3N5O2S
